US05216167
Tert.butyl 2-ethoxy-4[N-{1-(2-piperidino-phenyl)-1-butyl}aminocarbonylmethyl]-benzoate
A mixture of 1.9 g (9.6 mmols) of N,N'-dicyclohexyl-carbodiimide, 1.06 ml (11.2 mmols) of absolute tert.butanol and 0.020 g (0.20 mmol) of copper(I) chloride was stirred for 60 hours at room temperature. Then, 6.6 ml of methylene chloride were added, and the resulting solution was added dropwise to a solution of 0.44 g (1 mmol) of 2-ethyoxy-4-[N-{1-(2-piperidinophenyl)-1-butyl}-aminocarbonylmethyl]-benzoic acid in 15 ml of methylene chloride. After 60 hours' stirring at 20° C., the precipitate which had formed was filtered off, washed with methylene chloride, and the methylene chloride solution was evaporated in vacuo. The evaporation residue was purified by column chromatography on silica gel (chloroform/ethyl acetate=9/1).

reactant | N,N'-dicyclohexyl-carbodiimide | 9.6 mmols, 1.9 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | tert.butanol | 11.2 mmols, 1.06 ml | C(C)(C)(C)O | C4H10O
reactant | 2-ethyoxy-4-[N-{1-(2-piperidinophenyl)-1-butyl}-aminocarbonylmethyl]-benzoic acid | 1 mmol, 0.44 g | C(C)OC1=C(C(=O)O)C=CC(=C1)CC(=O)NC(CCC)C1=C(C=CC=C1)N1CCCCC1 | C26H34N2O4
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | copper(I) chloride | 0.20 mmol, 0.020 g | [Cu]Cl
solvent | methylene chloride | 6.6 ml | C(Cl)Cl | CH2Cl2
product | Tert.butyl 2-ethoxy-4[N-{1-(2-piperidino-phenyl)-1-butyl}aminocarbonylmethyl]-benzoate | C(C)OC1=C(C(=O)OC(C)(C)C)C=CC(=C1)CC(=O)NC(CCC)C1=C(C=CC=C1)N1CCCCC1 | C30H42N2O4
